US08703797B2
A solution of 4-isopropyl-1,8-naphthyridin-2(1 H)-one (800 mg, 4.3 mmol) and 475 L of POCl3 in toluene were reacted as outlined in Scheme 1 to give the desired 2-chloro-4-isopropyl-1,8-naphthyridine (690 mg, 79%). Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 1.41 (d, J=6.74 Hz, 6 H) 3.68 (dq, J=7.03, 6.84 Hz, 1 H) 7.38 (s, 1 H) 7.52 (dd, J=8.35, 4.25 Hz, 1 H) 8.44 (dd, J=8.50, 2.05 Hz, 1 H) 9.09 (dd, 1 H).

reactant | 4-isopropyl-1,8-naphthyridin-2(1 H)-one | 4.3 mmol, 800 mg | C(C)(C)C1=CC(NC2=NC=CC=C12)=O | C11H12N2O
reactant | POCl3 | 475 L | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4-isopropyl-1,8-naphthyridine | 690 mg, 79% | ClC1=NC2=NC=CC=C2C(=C1)C(C)C | C11H11ClN2
